US06002008
N-{3-Cyano-4-[(3-ethynylphenyl)amino]-6-quinolinyl}-2-propenamide
Dissolved 1.00 g (3.52 mmol) 6-amino-4-[(3-ethynylphenyl)amino)-3-quinolinecarbonitrile in 2 ml hot DMF, added 12 ml THF and chilled to 0° C. under N2. Added 539 μl (3.87 mmol) triethylamine and 322 μl (3.87 mmol) acryloyl chloride. Removed ice bath at 15 minutes and stripped solvent at 1.5 hours. Slurried residue in water, collected solids and air dried overnight. Recrystallized from ethyl acetate, dried in vacuo, giving 302 mg of orange solid: mass spectrum (electrospray m/e): 339.1.

reactant | 6-amino-4-[(3-ethynylphenyl)amino)-3-quinolinecarbonitrile | 3.52 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C#C | C18H12N4
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 3.87 mmol, 539 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 3.87 mmol, 322 μl | C(C=C)(=O)Cl | C3H3ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{3-Cyano-4-[(3-ethynylphenyl)amino]-6-quinolinyl}-2-propenamide | 302 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C#C)NC(C=C)=O | C21H14N4O
